US06362341B1
Trans-4-hydroxy-L-proline was treated with EtOH and HCl gas, and the mixture was evaporated to give trans-4-hydroxy-L-proline ethyl ester hydrochloride. This product was treated with TsCl in pyridine to give, after aqueous workup, N-(toluene-4-sulfonyl)-trans-4-(TsO)-L-proline ethyl ester. This product was treated with NaN3 in DMF and H2O to give, after aqueous workup and flash chromatography, N-(toluene-4-sulfonyl)-cis-4-azido-L-proline ethyl ester. This product was treated with NaOH in CH3OH and H2O to give, after acidification, extraction, drying with MgSO4, filtration and evaporation, N-(toluene-4-sulfonyl)-cis-4-azido-L-proline. This product was treated with 10% Pd on C in THF, AcOH and H2O, and the mixture was shaken under 50 psi H2. The mixture was filtered through Celite and evaporated to give N-(toluene-4-sulfonyl)-cis-4-anino-L-proline. This product was treated with Boc2O and Et3N in t-BuOH and H2O to give, after evaporation, acidification, extraction, drying with MgSO4, filtration, and evaporation, N-(toluene-4-sulfonyl)-cis-4-(t-butoxycarbonylamino)-L-proline. This product was treated with HCl.Phe-O-t-Bu, BOP, and NMM in DMF to give, after aqueous workup and flash chromatography, N-(toluene-4-sulfonyl)-cis-4-(t-butoxycarbonylamino)-Pro-Phe-O-t-Bu. This product was treated with TFA to give after evaporation the trifluoroacetate salt of the title compound as a clear oil.

reactant | TsCl | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | N-(toluene-4-sulfonyl)-cis-4-azido-L-proline ethyl ester | C(C)OC([C@H]1N(C[C@H](C1)N=[N+]=[N-])S(=O)(=O)C1=CC=C(C=C1)C)=O | C14H18N4O4S
reactant | NaOH | [OH-].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | CH3OH | CO | CH4O
product | N-(toluene-4-sulfonyl)-cis-4-anino-L-proline | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)C[C@@H](C1)N)C | C12H16N2O4S
